US07846944B2
Step 4: Synthesis of N-cyclopropyl-3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-4-(hydroxymethyl)benzamide
3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-4-(hydroxymethyl)benzoic acid (310 mg, 754 μmol) was treated with cyclopropanamine (0.21 mL, 3014 μmol) and HATU (430 mg, 1130 μmol) in THF (5.00 mL) under nitrogen and allowed to stir at RT. After 2 h the reaction was quenched by the addition of 1N NaOH (10 mL). The reaction mixture was extracted with EtOAc (2×25 mL), dried over MgSO4, filtered and concentrated. The crude residue was purified on the ISCO 12 g column (70-100% EtOAc in hexanes) affording the title compound as an amorphous white solid. MS (ESI, pos.ion) m/z: 451.1 (M+1).

reactant | 3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-4-(hydroxymethyl)benzoic acid | 754 μmol, 310 mg | FC1=C(C(=CC=C1)F)N1N=CC2=C1N(C(C(=C2)C=2C=C(C(=O)O)C=CC2CO)=O)C | C21H15F2N3O4
reactant | cyclopropanamine | 3014 μmol, 0.21 mL | C1(CC1)N | C3H7N
reactant | HATU | 1130 μmol, 430 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)-4-(hydroxymethyl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)CO)C1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2F)F)=O | C24H20F2N4O3
